US05804585
C. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 5(A), using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.16 g, 0.28 mmoles), CH2Cl2 (3 ml), triethylsilane (0.45 ml, 2.8 mmoles) and boron trifluoride etherate (0.17 ml, 1.4 mmoles). Flash chromatography (40% EtOAc/hexanes) provided 0.13 g (82%) of the title compound.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.28 mmoles, 0.16 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)C)O)COCCOC)C | C24H24ClN3O8S2
reactant | triethylsilane | 2.8 mmoles, 0.45 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 1.4 mmoles, 0.17 ml | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.13 g, 82% | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)C)COCCOC)C | C24H24ClN3O7S2
